US06268387B1
Step C: 5-[3-(3,5-Dichlorophenyl)-thioureido]-2-fluoro-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 5-amino-2-fluoro-N-phenyl-benzamide (0.920 g, 4.00 mmol) and 3,5-dichlorophenyl isothiocyanate (0.817 g, 4.00 mmol) to afford the product (1.52 g); m.p. 195-196° C.

reactant | 5-amino-2-fluoro-N-phenyl-benzamide | 4.00 mmol, 0.920 g | NC=1C=CC(=C(C(=O)NC2=CC=CC=C2)C1)F | C13H11FN2O
reactant | 3,5-dichlorophenyl isothiocyanate | 4.00 mmol, 0.817 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
product | 5-[3-(3,5-Dichlorophenyl)-thioureido]-2-fluoro-N-phenyl-benzamide | 1.52 g | ClC=1C=C(C=C(C1)Cl)NC(NC=1C=CC(=C(C(=O)NC2=CC=CC=C2)C1)F)=S | C20H14Cl2FN3OS
